US04245088
In a phosphate buffer solution of pH 6.4 (3 ml) were dissolved 5-mercapto-2-methyl-1,3,4-thiadiazole (79 mg), sodium hydrogen carbonate (50 mg) and 7β-[2-(1H-tetrazol-1-yl)acetamido]-3-(3-carboxypropionyloxy)methyl-3-cephem-4-carboxylic acid disodium salt (243 mg) and the resultant solution was heated for one hour at 60° C. After cooling, the reaction solution was concentrated under reduced pressure and the residue was subjected to column-chromatography on Sephadex LH-20(250 ml), elution being carried out with water. The fractions containing the desired product were pooled and lyophilized. The procedure provided sodium 7β-[2-(1H-tetrazol-1-yl)acetamido]-3-(2-methyl-1,3,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylate.

reactant | 5-mercapto-2-methyl-1,3,4-thiadiazole | 79 mg | SC1=NN=C(S1)C | C3H4N2S2
reactant | sodium hydrogen carbonate | 50 mg | C(O)([O-])=O.[Na+]
reactant | 7β-[2-(1H-tetrazol-1-yl)acetamido]-3-(3-carboxypropionyloxy)methyl-3-cephem-4-carboxylic acid disodium salt | 243 mg | [Na+].[Na+].N1(N=NN=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CCC(=O)O)=O)C(=O)[O-])C1=O.N1(N=NN=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CCC(=O)O)=O)C(=O)[O-])C1=O
solvent | phosphate | P(=O)([O-])([O-])[O-]
product | sodium 7β-[2-(1H-tetrazol-1-yl)acetamido]-3-(2-methyl-1,3,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylate | N1(N=NN=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)C)C(=O)[O-])C1=O.[Na+] | InChI=1S/C14H14N8O4S3.Na/c1-6-17-18-14(29-6)28-4-7-3-27-12-9(11(24)22(12)10(7)13(25)26)16-8(23)2-21-5-15-19-20-21;/h5,9,12H,2-4H2,1H3,(H,16,23)(H,25,26);/q;+1/p-1/t9-,12-;/m1./s1
